US04636492
First, precursor H-ValCH2Cl.HCl was prepared by dissolving Boc-Val-OH (6.5 g, 30 mmol) in 10 mL of THF and treating it with N-methylmorpholine (3.3 mL, 30 mmol) and isobutyl chloroformate (3.9 mL, 30 mmol) for 10 minutes at -20°. The resulting mixture was filtered and the retained material was washed with 40 mL of cold THF. The combined filtrates were added to 200 mL of diazomethane:ether. The resulting solution was stirred for 2 hours at 0°, and then solvent was removed by evaporation to yield an oil. The oil was dissolved in ethyl acetate, washed with 5% sodium bicarbonate followed by saturated aqueous sodium chloride, and then dried over sodium sulfate. Evaporation of solvent left 6.4 g of an oil. The oil was dissolved in 100 mL of ether, and the resulting solution was treated with a 5% excess of ethanolic HCl for 15 minutes at 0°. This solution was washed with cold water followed by saturated aqueous sodium chloride, and then dried over sodium sulfate. After evaporation of solvent, product was washed with hexane to yield 2.7 g of Boc-ValCH2Cl (m.p. 70°-73°). Boc-ValCH2Cl (1.0 g) was deblocked by stirring with 5 mL of 3N ethanolic HCl for 30 minutes at about 23°. Solvent was evaporated and the resulting residue was triturated with ether to yield 0.69 g of H-ValCH2Cl.HCl.

reactant | Boc-ValCH2Cl | 1.0 g | N([C@@H](C(C)C)C(=O)CCl)C(=O)OC(C)(C)C | C11H20ClNO3
reactant | HCl | 3N, 5 mL | Cl | ClH
product | H-ValCH2Cl.HCl | 0.69 g | N[C@@H](C(C)C)C(=O)CCl.Cl | InChI=1S/C6H12ClNO.ClH/c1-4(2)6(8)5(9)3-7;/h4,6H,3,8H2,1-2H3;1H/t6-;/m0./s1
